US05700779
Boc-N-(cyclohexyl)glycine benzyl ester
N-(Cyclohexyl)glycine benzyl ester was dissolved in 44.4 mL of dioxane and 44.4 mL of 1N NaOH solution were added, followed by di-tert-butyl dicarbonate (10.68 g). Stirring was continued for approximately 15 hours, after which volatiles were removed by roto-evaporation. The resulting residue was partitioned between 100 mL water and 100 mL ethyl acetate. The layers were separated and the aqueous layer was acidified to pH 3 with 5% potassium bisulfate solution. The aqueous layer was then extracted with ethyl acetate and all ethyl acetate solutions were combined and washed with saturated sodium bicarbonate solution, saturated sodium chloride solution and dried over magnesium sulfate. Removal of the solvent by rotary evaporation and further drying under high vacuum provided 14.50 g of the title compound as an oil. 1H NMR (CDCl3) β 0.95-1.55 (m, 14H); 1.63 (m, 1H); 1.77 (m, 4H); 3.70-4.1 (m, 3H); 5.16 (s, 2H); 7.36 (s, 5H).

reactant | N-(Cyclohexyl)glycine benzyl ester | C(C1=CC=CC=C1)OC(CNC1CCCCC1)=O | C15H21NO2
reactant | NaOH | 1N, 44.4 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 10.68 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 44.4 mL | O1CCOCC1 | C4H8O2
product | Boc-N-(cyclohexyl)glycine benzyl ester | 14.50 g | C(C1=CC=CC=C1)OC(CN(C1CCCCC1)C(=O)OC(C)(C)C)=O | C20H29NO4
